US08912188B2
A solution of 6-methyl-1-benzofuran-3-yl acetate (3.8 g, 19.98 mmol) in HCl (4 mL, conc), methanol (160 mL), and water (40 mL) was heated under reflux for 1.5 h, the reaction mixture was cooled to room temperature, dissolved in water (200 mL) and filtered to give 6-methyl-2,3-dihydro-1-benzofuran-3-one as a white solid (2.5 g, 82%).

reactant | 6-methyl-1-benzofuran-3-yl acetate | 19.98 mmol, 3.8 g | C(C)(=O)OC1=COC2=C1C=CC(=C2)C | C11H10O3
solvent | HCl | 4 mL | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 6-methyl-2,3-dihydro-1-benzofuran-3-one | 2.5 g, 82% | CC1=CC2=C(C(CO2)=O)C=C1 | C9H8O2
